US09315489B2
4-(pyrimidin-5-yl)-N-(4-(trifluoromethoxy)phenyl)picolinamide
SOCl2 (2.93 ml, 40.2 mmol) and DMF (0.01 mL) were added dropwise to 4-iodopicolinic acid (1 g, 4.02 mmol) in toluene (10 ml) and the RM was stirred at 80° C. for 4 h. The solvent was evaporated off under reduced pressure and the residue was dissolve in THF (8 mL), cooled to 0° under argon atmosphere, DIPEA (2.104 mL, 12.05 mmol) and 4-(trifluoromethoxy)aniline (0.593 mL, 4.42 mmol) were added and the RM was stirred at RT overnight. The mixture was treated with aq. sat. NH4Cl (50 mL) and extracted with EtOAc/TBME(1:1). The combined extracts were washed with water (50 mL), aq. Na2S2O3 (50 mL), an aq. sat. Na2CO3, brine, dried over MgSO4 and the solvent was evaporated off under reduced pressure. The residue was purified by flash chromatography (Silica gel column, 40 g, cyclohexane/EtOAc-0.1% NH4OH from 5% to 30% EtOAc-0.1% NH4OH) to give a mixture of the chloro and the iodo intermediate, of which (100 mg) together with pyrimidin-5-ylboronic acid (87.3 mg, 0.705 mmol), Pd(PPh3)2Cl2 (23.74 mg, 0.034 mmol), Na2CO3 (90 mg, 0.846 mmol), water (342 μL) and EtOH (171 μL) and DME (1196 μL), was stirred at 100° C. for 16 h and 1 h at 150° C. The RM was diluted with THF (3 mL), stirred for 2 h with Si-Thiol (Silicycle, 111 mg, 0.141 mmol), filtered and the filtrate was evaporated off under reduced pressure to give the crude product which was purified by flash chromatography (Silica gel column, 12 g, cyclohexane/EtOAc+0.1% NH4OH from 25% to 100% EtOAc+0.1% NH4OH) and preparative HPLC (Column: two SunFire™ dc18 30×100 mm, 5 μm, coupled by a capillary tubing, gradient elution of water+0.1% TFA/MeOH-MeCN (3:1) from 40% to 83% MeOH-MeCN (3:1) in 20 min) to yield the title product as a white solid. UPLC-MS (Condition 1) tR=2.54 min, m/z=361.0 [M+H]+, m/z=359.0 [M−H]−; 19F NMR (377 MHz, DMSO-d6) d ppm-56.94 (s, 3F); 1H-NMR (400 MHz, DMSO-d6) d ppm 7.40 (d, J=8.6 Hz, 2H) 8.07 (d, J=9.0 Hz, 2H) 8.17 (dd, J=5.1, 2.0 Hz, 1H) 8.56 (d, J=1.2 Hz, 1H) 8.90 (d, J=5.1 Hz, 1H) 9.33 (s, 1H) 9.36 (s, 2H) 10.97 (s, 1H).

reactant | SOCl2 | 40.2 mmol, 2.93 ml | O=S(Cl)Cl | Cl2OS
reactant | 4-iodopicolinic acid | 4.02 mmol, 1 g | IC1=CC(=NC=C1)C(=O)O | C6H4INO2
reactant | DIPEA | 12.05 mmol, 2.104 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 4-(trifluoromethoxy)aniline | 4.42 mmol, 0.593 mL | FC(OC1=CC=C(N)C=C1)(F)F | C7H6F3NO
reactant | NH4Cl | 50 mL | [NH4+].[Cl-]
reactant | pyrimidin-5-ylboronic acid | 0.705 mmol, 87.3 mg | N1=CN=CC(=C1)B(O)O | C4H5BN2O2
reactant | Na2CO3 | 0.846 mmol, 90 mg | C(=O)([O-])[O-].[Na+].[Na+]
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
solvent | THF | 3 mL | C1CCOC1 | C4H8O
catalyst | Pd(PPh3)2Cl2 | 0.034 mmol, 23.74 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | DME | 1196 μL | COCCOC | C4H10O2
solvent | EtOH | 171 μL | CCO | C2H6O
solvent | water | 342 μL | O | H2O
solvent | DMF | 0.01 mL | CN(C)C=O | C3H7NO
product | 4-(pyrimidin-5-yl)-N-(4-(trifluoromethoxy)phenyl)picolinamide | N1=CN=CC(=C1)C1=CC(=NC=C1)C(=O)NC1=CC=C(C=C1)OC(F)(F)F | C17H11F3N4O2
